US07759337B2
Step B: (R)-1-(allyloxycarbonyl)-5-methylpyrrolidine-2-carboxylic acid
(R)-1-Allyl 2-ethyl 5-hydroxy-5-methylpyrrolidine-1,2-dicarboxylate (3.0g, 12 mmol) was dissolved in trifluoroacetic acid (20 mL) and cooled to 0° C. before borane-pyridine complex (2.9 mL, 23 mmol) was added. The reaction mixture was heated to 90° C. for 3 h, then concentrated in vacuo and NaOH—about 5N (30 mL) was added. The mixture was stirred for 2 h at 60° C., then cooled, washed with EtOAc (30 mL) and acidified to ˜pH 5 with conc HCl. The mixture was extracted into dichloromethane, which was separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound. Found MS (ES+): 214 (M+H)+.

reactant | (R)-1-Allyl 2-ethyl 5-hydroxy-5-methylpyrrolidine-1,2-dicarboxylate | 12 mmol, 3.0g | OC1(CC[C@@H](N1C(=O)OCC=C)C(=O)OCC)C | C12H19NO5
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-(allyloxycarbonyl)-5-methylpyrrolidine-2-carboxylic acid | C(C=C)OC(=O)N1[C@H](CCC1C)C(=O)O | C10H15NO4
